US06956042B2
7-(3-Pyridyl)-1,7-diazaspiro[4.4]nonane dihydrochloride
Aqueous hydrochloric acid (0.5 mL of 12 M) and 10% palladium on carbon (0.100 g) were added to a solution of 1-benzyl-7-(3-pyridyl)-1,7-diazaspiro[4.4]nonane (1.0 g, 3.41 mmol) in methanol (30 mL). The mixture was shaken under a hydrogen atmosphere (50 psi) in a Parr hydrogenation apparatus for 24 h and filtered through Celite. The filtrate was concentrated by rotary evaporation and column chromatographed on Merck silica gel 60 (70-230 mesh). Elution with 0.01:1:9 (v/v) aqueous ammonia/methanol/chloroform, and concentration of selected fractions, gave 0.650 g (93.8%) of viscous, brown oil. A portion (300 mg, 1.48 mmol) of this material was treated with aqueous hydrochloric acid (2 mL). The water was azeotropically removed by repeated treatment with small volumes of ethanol (˜5 mL) and rotary evaporation. The resulting solid was recrystallized from hot isopropanol to give 360 mg (88.2%) of fine tan crystals.

reactant | hydrochloric acid | 12 M, 0.5 mL | Cl | ClH
reactant | 1-benzyl-7-(3-pyridyl)-1,7-diazaspiro[4.4]nonane | 3.41 mmol, 1.0 g | C(C1=CC=CC=C1)N1CCCC12CN(CC2)C=2C=NC=CC2 | C19H23N3
reactant | hydrochloric acid | 2 mL | Cl | ClH
catalyst | palladium on carbon | 0.100 g | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | 7-(3-Pyridyl)-1,7-diazaspiro[4.4]nonane dihydrochloride | 360 mg, 88.2% | Cl.Cl.N1=CC(=CC=C1)N1CC2(CCCN2)CC1 | InChI=1S/C12H17N3.2ClH/c1-3-11(9-13-6-1)15-8-5-12(10-15)4-2-7-14-12;;/h1,3,6,9,14H,2,4-5,7-8,10H2;2*1H
